US06184180B2
Synthesis of N-octadecylthiazolium bromide
In a 100 ml flask equipped with a stirrer, a condenser and a calcium chloride dryer tube were charged 3.8 g of thiazole and 10.0 g of 1-bromoctadecane, and the mixture was stirred at 120° C. for 5 hours. After cooling the reaction mixture to room temperature, precipitated crystals were collected by filtration under reduced pressure. The resulting crystals were recrystallized from a mixed solvent of acetone and methanol to obtain 9.1 g of the title compound. Melting point: 83° C.

reactant | thiazole | 3.8 g | S1C=NC=C1 | C3H3NS
reactant | 1-bromoctadecane | 10.0 g | BrCCCCCCCCCCCCCCCCCC | C18H37Br
product | N-octadecylthiazolium bromide | 9.1 g | [Br-].C(CCCCCCCCCCCCCCCCC)[N+]1=CSC=C1 | InChI=1S/C21H40NS.BrH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-22-19-20-23-21-22;/h19-21H,2-18H2,1H3;1H/q+1;/p-1
